US08629160B2
To a solution of (S)—((R)-quinuclidin-3-yl) 2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetate (diastereomer 2 of C19) (62 mg, 0.16 mmol) in ethyl acetate (3 ml), was added 2-chloro-1-(thiophen-2-yl)ethanone (25.4 mg, 0.16 mmol), and the reaction mixture was stirred at r.t. overnight. Diethyl ether (10 ml) was added, and the precipitate was filtered and dried under vacuum to obtain (R)-3-((S)-2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetoxy)-1-(2-oxo-2-(thiophen-2-yl)ethyl)-1-azoniabicyclo[2.2.2]octane chloride (75 mg, 86% yield).

reactant | (S)—((R)-quinuclidin-3-yl) 2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetate | 0.16 mmol, 62 mg | S1C2=C(C(=C1)[C@@H](C(=O)O[C@H]1CN3CCC1CC3)NC3=CC=CC=C3)C=CC=C2 | C23H24N2O2S
reactant | 2-chloro-1-(thiophen-2-yl)ethanone | 0.16 mmol, 25.4 mg | ClCC(=O)C=1SC=CC1 | C6H5ClOS
reactant | Diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
product | (R)-3-((S)-2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetoxy)-1-(2-oxo-2-(thiophen-2-yl)ethyl)-1-azoniabicyclo[2.2.2]octane chloride | 75 mg, 86% yield | [Cl-].S1C2=C(C(=C1)[C@@H](C(=O)O[C@H]1C[N+]3(CCC1CC3)CC(C=3SC=CC3)=O)NC3=CC=CC=C3)C=CC=C2 | InChI=1S/C29H29N2O3S2.ClH/c32-24(27-11-6-16-35-27)17-31-14-12-20(13-15-31)25(18-31)34-29(33)28(30-21-7-2-1-3-8-21)23-19-36-26-10-5-4-9-22(23)26;/h1-11,16,19-20,25,28,30H,12-15,17-18H2;1H/q+1;/p-1/t20?,25-,28-,31?;/m0./s1
